* Z:\mnt\spice-netlists\LTC3765_LTC3766_DC1739A_.asc
L1 N004 IN 48µ
L2 N005 N001 48µ
L3 N001 OUT 8µ
C1 OUT 0 68µ x2
C2 OUT 0 22µ x2
M§Q1 N004 N007 N010 N010 BSC190N15NS3
C3 N027 N026 1µ
L4 N029 N026 592µ
L5 N031 N025 925µ
C4 N025 N024 .1µ
C5 N024 N031 220p
C6 N030 0 3n
C7 N023 0 1µ
M§Q2 N011 N017 N023 N023 FDC2512
C8 N004 N009 1µ
M§Q3 N005 N008 N012 N012 BSC057N08NS3
M§Q4 N001 N006 0 0 BSC190N15NS3
V1 IN 0 24
M§Q5 N009 N014 N016 N016 IRF9640
C9 N041 0 7n
R1 OUT N033 11.5K
R2 N033 0 604
C10 N037 0 2.2n
C11 N001 0 47p
D1 IN N011 ZLLS1000
C12 N021 N014 .1µ
D2 N014 0 ZLLS1000
D3 N009 N016 ES1D
D4 N001 N002 ES1D
C13 N002 0 1n
R3 OUT N002 34K
Q6 OUT N019 N015 0 BC817-40
C14 N015 0 10µ
R4 OUT N022 1.82K
R5 N022 0 1.87K
C15 OUT N033 1n
R6 N013 N012 100
R7 N018 0 100
XU1 0 N007 N023 N021 N016 N035 N010 0 0 N036 N034 N028 N030 N017 N024 N031 LTC3765
XU2 N006 N008 0 N015 0 N033 N037 N020 N041 N040 NC_01 N022 N022 0 N032 0 N013 N018 N038 N039 N019 OUT N003 NC_02 N029 N027 0 N015 LTC3766
R8 IN N028 61.9K
R9 N028 0 4.99K
R10 N034 0 13.3K
R11 N035 0 8.25K
R12 N036 0 18.2K
R13 IN N017 100K
R14 N010 0 6m
R15 N014 0 10K
R16 N016 0 0.75
R17 N012 0 4m
R18 N013 N018 1.78K
R19 N001 N003 1.82K
R20 N003 0 1.82K
R21 OUT N020 60.4K
R22 N032 0 60.4K
R23 N038 0 15K
R24 N039 0 19.1K
R25 N040 0 56.2K
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
K1 L1 L2 1
K2 L4 L5 1
* 18 to 72Vin
* 12V/12.5Aout
* LTC3765 - Active Clamp Forward Controller and Gate Driver\nLTC3766 - High Efficiency, Secondary-Side Synchronous Forward Controller\nActive Clamp Forward Converter\nInput: 18V-72V     Output: 12V @ 12.5A
* Notes:\n \n1. Not included in Sim: Input Filter, Transformer Leakage inductance, LTC3765 Freq Foldback circuit, \nRUN, ISMAG & DELAY pin filters, Sense resistor inductance and compensating filters, Y-cap.\n2. C29 & C25 changed from 33nF to 3nF & 7nF to reduce sim time.\n3. D3, Q1, Q3, Q4, Q5 & Q7 models replaced with nearest equivalent.\n \nIf the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\nIt remains the customer's responsibility to verify proper and reliable operation in the actual application.\nComponent substitution and printed circuit board layout may significantly affect circuit performance or reliability.\nContact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\nCopyright © 2012 Linear Technology Inc. All rights reserved.
.options GminSteps=0
.lib LTC3765.sub
.lib LTC3766.sub
.backanno
.end
